US07947712B2
N-[(5-amino-8-hydroxyquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide (200 mg, 0.5 mmol), dibromobutane (0.1 ml), TEA (0.2 ml) in isopropanol were heated at reflux for 16 h. The reaction mixture was concentrated in vacuo, the residue dissolved in methylene chloride, washed with brine. The organic layer was dried over sodium sulfate and filtered. To the filtrate was added 1M HCl/ether, the solids filtered, washed with ether to give N-[(8-hydroxy-5-pyrrolidin-1-ylquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide as a purple solid.

reactant | N-[(5-amino-8-hydroxyquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide | 0.5 mmol, 200 mg | NC1=C2C=CC=NC2=C(C(=C1)C(NC(COC1=CC=CC=C1)=O)C1=CC=CC=C1)O | C24H21N3O3
reactant | dibromobutane | 0.1 ml | BrC(C)C(C)Br | C4H8Br2
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-[(8-hydroxy-5-pyrrolidin-1-ylquinolin-7-yl)(phenyl)methyl]-2-phenoxyacetamide | OC=1C(=CC(=C2C=CC=NC12)N1CCCC1)C(NC(COC1=CC=CC=C1)=O)C1=CC=CC=C1 | C28H27N3O3
